US08017607B2
To a mixture of rac-4-{[(2S,3S,4S)-2,3-bis-(4-chloro-2-fluoro-phenyl)-3-cyano-4-(2,2-dimethyl-propyl)-pyrrolidine-1-carbonyl]-amino}-benzoic acid methyl ester (142.6 mg, 0.24 mmol) in THF/MeOH (3.4 mL/0.8 mL) was added 4 N LiOH (1.4 mL), and the reaction mixture was stirred at rt overnight. The reaction mixture was concentrated and quenched with 2 NH2SO4, extracted with EtOAc, and washed with water, brine. The organic phase was separated, and dried over Na2SO4. The mixture was then concentrated to give rac-4-{[(2S,3S,4S)-2,3-bis-(4-chloro-2-fluoro-phenyl)-3-cyano-4-(2,2-dimethyl-propyl)-pyrrolidine-1-carbonyl]-amino}-benzoic acid (111.6 mg, 80.6%). HRMS (ES+) m/z Calcd for C30H27Cl2F2N3O3+H [(M+H): 586.1471; Found: 586.1472.

reactant | rac-4-{[(2S,3S,4S)-2,3-bis-(4-chloro-2-fluoro-phenyl)-3-cyano-4-(2,2-dimethyl-propyl)-pyrrolidine-1-carbonyl]-amino}-benzoic acid methyl ester | 0.24 mmol, 142.6 mg | COC(C1=CC=C(C=C1)NC(=O)N1[C@@H]([C@@]([C@@H](C1)CC(C)(C)C)(C#N)C1=C(C=C(C=C1)Cl)F)C1=C(C=C(C=C1)Cl)F)=O | C31H29Cl2F2N3O3
reactant | LiOH | 4 N, 1.4 mL | [Li+].[OH-]
solvent | THF MeOH | 3.4 mL | C1CCOC1.CO
product | rac-4-{[(2S,3S,4S)-2,3-bis-(4-chloro-2-fluoro-phenyl)-3-cyano-4-(2,2-dimethyl-propyl)-pyrrolidine-1-carbonyl]-amino}-benzoic acid | 111.6 mg, 80.6% | ClC1=CC(=C(C=C1)[C@H]1N(C[C@H]([C@]1(C#N)C1=C(C=C(C=C1)Cl)F)CC(C)(C)C)C(=O)NC1=CC=C(C(=O)O)C=C1)F | C30H27Cl2F2N3O3
